US07745438B2
5-(R)-(2-(S)-Acetylamino-1-(S)-hydroxy-3-phenyl-propyl)-2-(S)-(2-cyclohexyl-ethyl)-morpholine-4-carboxylic acid tert-butyl ester
Dissolve 5-(R)-(2-(S)-amino-1-(S)-hydroxy-3-phenylpropyl)-2-(S)-(2-cyclohexylethyl)-morpholine-4-carboxylic acid tert-butyl ester (140 mg, 0.31 mmol) in dry tetrahydrofuran (3 mL). Add triethylamine (0.05 mL, 0.35 mmol) followed by acetic anhydride (0.03 mL, 0.35 mmol) and stir at room temperature for 1 hour. Dilute with dichloromethane, wash with 0.1 N hydrochloric acid/saturated aqueous sodium chloride (30 mL), dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 40:60 to 60:40 ethyl acetate:dichloromethane) acetate/dichloromethane to give the title compound (83 mg, 54%).

reactant | 5-(R)-(2-(S)-amino-1-(S)-hydroxy-3-phenylpropyl)-2-(S)-(2-cyclohexylethyl)-morpholine-4-carboxylic acid tert-butyl ester | 0.31 mmol, 140 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC=CC=C1)N)O)CCC1CCCCC1 | C26H42N2O4
reactant | triethylamine | 0.35 mmol, 0.05 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.35 mmol, 0.03 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(R)-(2-(S)-Acetylamino-1-(S)-hydroxy-3-phenyl-propyl)-2-(S)-(2-cyclohexyl-ethyl)-morpholine-4-carboxylic acid tert-butyl ester | 83 mg, 54% | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC=CC=C1)NC(C)=O)O)CCC1CCCCC1 | C28H44N2O5
